US07932272B2
5-Oxo-2-phenoxy thiocarbonyl-2,5-dihydro-isoxazole-4-carboxylic acid ethyl ester
5-Oxo-2,5-dihydro-isoxazole-4-carboxylic acid ethyl ester described in Preparation Example 112 (1.00 g, 5.17 mmol), phenyl chlorothionoformate (786 μl, 5.69 mmol) and pyridine (919 μl, 11.4 mmol) were dissolved at 0° C. in toluene (20 mL), and the solution was stirred at room temperature for 17 hours under nitrogen atmosphere. Water was added to the reaction solution at 0° C., which was then extracted with ethyl acetate, and the organic layer was washed with brine. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), and the title compound (1.66 g, 5.66 mmol, quantitatively) was obtained as a pale yellow solid.

reactant | 5-Oxo-2,5-dihydro-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNOC1=O | C6H7NO4
reactant | phenyl chlorothionoformate | 5.69 mmol, 786 μl | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
reactant | pyridine | 11.4 mmol, 919 μl | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Oxo-2-phenoxy thiocarbonyl-2,5-dihydro-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(OC1=O)C(=S)OC1=CC=CC=C1 | C13H11NO5S
